US04504479
6-{5-[8-(1-Imidazolyl)-octyl]-thien-2-yl}-3-oxo-2,3,4,5-tetrahydro-pyridazine
1.8 g of 4-{5-[8-(1-Imidazolyl)-octyl]-thien-2-yl}-4-oxo-butyric acid are suspended in 10 ml of water, 0.26 g of hydrazine hydrate are added and the mixture is stirred at 90° C. for 2 hours. After the mixture has been cooled, the precipitate formed is filtered off with suction, washed with water and dried.

reactant | 4-{5-[8-(1-Imidazolyl)-octyl]-thien-2-yl}-4-oxo-butyric acid | 1.8 g | N1(C=NC=C1)CCCCCCCCC1=CC=C(S1)C(CCC(=O)O)=O | C19H26N2O3S
reactant | hydrazine hydrate | 0.26 g | O.NN
solvent | water | 10 ml | O | H2O
product | 6-{5-[8-(1-Imidazolyl)-octyl]-thien-2-yl}-3-oxo-2,3,4,5-tetrahydro-pyridazine | N1(C=NC=C1)CCCCCCCCC1=CC=C(S1)C=1CCC(NN1)=O | C19H26N4OS
